US07259183B2
4.26 g of 2-bromo-4-trifluoromethyl-6-trimethylsilanylethynyl-phenylamine (13 mmol) were dissolved in 40 ml THF and the solution was cooled to 0° C. Then 15.2 ml of a 1 M solution of tetrabutylammonium fluoride in THF (15 mmol) were added and the reaction mixture was stirred for 20 min at 0° C. After addition of water, the mixture was extracted with EtOAc and the combined organic extracts were washed with brine, dried with magnesium sulfate, filtered and concentrated. 1.82 g (54%) of 2-bromo-6-ethynyl-4-trifluoromethyl-phenylamine were isolated as a brown solid after purification (silica gel; cyclohexane/EtOAc 9:1). 1H NMR (CDCl3, 300 MHz): δ 3.48 (s, 1H), 5.03 (br s, 2H), 7.54 (s, 1H), 7.65 (s, 1H).

reactant | 2-bromo-4-trifluoromethyl-6-trimethylsilanylethynyl-phenylamine | 13 mmol, 4.26 g | BrC1=C(C(=CC(=C1)C(F)(F)F)C#C[Si](C)(C)C)N | C12H13BrF3NSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 15 mmol | C1CCOC1 | C4H8O
product | 2-bromo-6-ethynyl-4-trifluoromethyl-phenylamine | 1.82 g, 54% | BrC1=C(C(=CC(=C1)C(F)(F)F)C#C)N | C9H5BrF3N
